US06103738
1-(t-B utyloxycarbonyl)- 1,4-diazepane
To a solution of homopiperazine (100 g, 1.0 mol) and triethylamine (210 ml, 152 g, 1.5 mol) in CH2Cl2 (500 ml) at 0° C. was added a solution of di-(t-butyl) dicarbonate (195 g, 0.89 mol) in CH2Cl2 (300 ml). The mixture was allowed to warm to room temperature and stirred for 18 h after which time the CH2Cl2 was evaporated under reduced pressure. The resulting residue was partitioned between ether and 2N citric acid and the aqueous layer was extracted with ether (4×200 ml). The aqueous layer was basified with 2N aqueous NaOH and then extracted with CH2Cl2 (4×400 ml). The combined CH2Cl2 extracts were washed with H2O (2×), saturated brine (1×) and dried over MgSO4. Evaporation under reduced pressure followed by azeotroping with CH2Cl2 (4×) gave the title compound as a yellow waxy solid (94.3 g, 53%). Rf 0.25 (CH2Cl2 /MeOH/0.88NH3 90/10/1, v/v). MS m/z 201 (MH+). Found: C,58.86; H,10.03; N,13.58; C10H20N2O2 0.05. CH2Cl2 requires C,59.02; H,9.91; N,13.70%.

reactant | homopiperazine | 1.0 mol, 100 g | N1CCNCCC1 | C5H12N2
reactant | triethylamine | 1.5 mol, 210 ml, 152 g | C(C)N(CC)CC | C6H15N
reactant | di-(t-butyl) dicarbonate | 0.89 mol, 195 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(t-B utyloxycarbonyl)- 1,4-diazepane | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
